US07317021B2
1a. 2-[2-(2-Amino-4-methylpyridin-6-yl)ethyl]-3H-imidazo[4,5-b]pyridine hydrochloride
31 mg of 2-[2-(2-Amino-4-methylpyridin-6-yl)ethyl]-3H-imidazo[4,5-b]pyridine (compound1) are dissolved in 16 ml of dichloromethane. Under ice-cooling, 61 μl of a solution of hydrochloric acid in diethylether (2M strength) are added. The mixture is evaporated to dryness and the residue lyophillized from 15 ml water to give 35 mg of the title compound as colorless lyophilisate. M.p. 136° C. MS: 254.2 (MH+), 528.8 (2MNa+).

reactant | 2-[2-(2-Amino-4-methylpyridin-6-yl)ethyl]-3H-imidazo[4,5-b]pyridine | 31 mg | NC1=NC(=CC(=C1)C)CCC1=NC=2C(=NC=CC2)N1 | C14H15N5
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | diethylether | 2M | C(C)OCC | C4H10O
product | 2-[2-(2-Amino-4-methylpyridin-6-yl)ethyl]-3H-imidazo[4,5-b]pyridine hydrochloride | 35 mg | Cl.NC1=NC(=CC(=C1)C)CCC1=NC=2C(=NC=CC2)N1 | InChI=1S/C14H15N5.ClH/c1-9-7-10(17-12(15)8-9)4-5-13-18-11-3-2-6-16-14(11)19-13;/h2-3,6-8H,4-5H2,1H3,(H2,15,17)(H,16,18,19);1H
